US05202337
e) 2-Benzyl-4-methyl-2,7-diazabicyclo[3.3.0]octane
10 g (26.3 mmol) of ethyl 2-benzyl-4-methyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate are refluxed overnight together with 100 ml of concentrated hydrochloric acid. The mixture is concentrated, the concentrate is taken up in 20 ml of water, the mixture is rendered alkaline using potassium carbonate and extracted five times using 50 ml portions of chloroform, and the extracts are dried over potassium carbonate, concentrated and distilled.

reactant | ethyl 2-benzyl-4-methyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate | 26.3 mmol, 10 g | C(C1=CC=CC=C1)N1C2CN(CC2C(C1)C)C(=O)OCC | C17H24N2O2
solvent | hydrochloric acid | 100 ml | Cl | ClH
product | 2-Benzyl-4-methyl-2,7-diazabicyclo[3.3.0]octane | C(C1=CC=CC=C1)N1C2CNCC2C(C1)C | C14H20N2
